US08124629B2
To in situ generated lithium diisopropylamide (LDA) (0.33 mmol) [from diisopropylamine (0.33 mmol) and n-butyllithium (0.36 mmol)] in tetrahydrofuran (1.5 mL) at −78° C. under nitrogen was added a solution of [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid methyl ester (0.120 g, 0.30 mmol, prepared in an analogous manner to the precursor of example 2-1 according to Scheme 2) in tetrahydrofuran (1.0 mL) drop-wise. The reaction mixture was stirred for 30 minutes at −78° C. Methyl iodide (0.051 g, 0.36 mmol) in hexamethylphosphoramide (HMPA) (2.4 mL) was then added drop-wise. The resulting mixture was stirred at −78° C. for 20 minutes, then warmed to −30° C. and stirred for an additional 2 hours. The reaction was quenched with an aqueous solution of saturated ammonium chloride (2 mL), and the resulting mixture was extracted with ethyl acetate (3×5 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Flash chromatography (silica gel, 100-200 mesh, 20% ethyl acetate in hexane) gave 2-[6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-propionic acid methyl ester (0.070 g, 56.4%) as an off-white solid. MS cald. for C22H19FO5S [(M+H)+] 415, obsd. 415.

reactant | lithium diisopropylamide | 0.33 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | [6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-acetic acid methyl ester | COC(CC1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)F)=O | C21H17FO5S
reactant | Methyl iodide | 0.36 mmol, 0.051 g | CI | CH3I
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 2.4 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-[6-fluoro-4-(4-methanesulfonyl-benzoyl)-naphthalen-2-yl]-propionic acid methyl ester | 0.070 g, 56.4% | COC(C(C)C1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)F)=O | C22H19FO5S
